US04339457
To a stirred solution of 7.5 grams (0.037 mole) of 2-methyl-3-(pyrrol-1-yl)benzoic acid in 125 ml of tetrahydrofuran was added dropwise 4.8 grams (0.056 mole) of a borane-tetrahydrofuran complex. The addition required 30 minutes. Upon complete addition the reaction mixture was heated under reflux for 2.5 hours then cooled slowly. To the cooled reaction mixture was carefully added 150 ml of diethyl ether previously saturated with water, followed by 50 ml of water. The mixture was poured into a separatory funnel and washed with 100 ml of aqueous 2 N sodium hydroxide. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 6.8 grams of 2-methyl-3-(pyrrol-1-yl)phenylmethanol as an oil.

reactant | 2-methyl-3-(pyrrol-1-yl)benzoic acid | 0.037 mole, 7.5 grams | CC1=C(C(=O)O)C=CC=C1N1C=CC=C1 | C12H11NO2
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | water | O | H2O
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-(pyrrol-1-yl)phenylmethanol | 6.8 grams | CC1=C(C=CC=C1N1C=CC=C1)CO | C12H13NO
